US08207164B2
i) [5-(3-Azido-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester
[5-(3-Bromo-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester (5.03 g, 12.67 mmol), sodium azide (1.647 g, 25.3 mmol), sodium ascorbate (0.125 g, 0.63 mmol), copper iodide (0.241 g, 1.27 mmol) and (1R,2R)-N,N′-dimethyl-cyclohexane-1,2-diamine (0.270 g, 1.90 mmol) were dissolved in ethanol (17.7 ml) and water (7.6 ml). The mixture was stirred under N2 at 90° C. for 4 h and then poured into 1M aqueous KHCO3 solution. The mixture was extracted with EtOAc, and the organic phase was washed with brine, dried with Na2SO4 and evaporated under reduced pressure. The residue was purified by chromatography on silica gel (cyclohexane/EtOAc=7:3) to yield the title compound. 1H-NMR (500 MHz, DMSO-d6): 9.57 (br, 1H), 7.38 (m, 1H), 7.24 (d, 1H), 7.18 (br, 1H), 7.0 (br, 1H), 4.50-4.30 (m, 2H), 3.75-3.35 (m, 2H), 1.41 (s, 9H), 1.36 (s, 3H); MS: 332 [(M+H)+].

reactant | [5-(3-Bromo-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | 12.67 mmol, 5.03 g | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=CC(=CC=C1)Br)=O | C16H21BrN2O3
reactant | sodium azide | 25.3 mmol, 1.647 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium ascorbate | 0.63 mmol, 0.125 g | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | (1R,2R)-N,N′-dimethyl-cyclohexane-1,2-diamine | 1.90 mmol, 0.270 g | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | ethanol | 17.7 ml | C(C)O | C2H6O
solvent | water | 7.6 ml | O | H2O
catalyst | copper iodide | 1.27 mmol, 0.241 g | [Cu](I)I
product | [5-(3-Azido-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=CC(=CC=C1)N=[N+]=[N-])=O | C16H21N5O3
